US09085583B2
To a solution of tert-butyl((4-(difluoromethoxy)-2-methoxy-6-methylpyridin-3-yl)methyl)carbamate (830 mg, 2.61 mmol) in HCl (10 mL) was stirred at 100° C. for 1.5 hours under N2. The mixture was concentrated to afford 3-(aminomethyl)-4-(difluoromethoxy)-6-methylpyridin-2(1H)-one (430 mg, yellow solid, 80.8% yield). LCMS (M+H+) m/z: calcd 204.07. found 205.0. 1H NMR (400 MHz, DMSO): δ 7.621-7.258 (t, 1H), 6.26 (s, 1H), 3.837-3.822 (d, J=6.0 Hz,2H)

reactant | tert-butyl((4-(difluoromethoxy)-2-methoxy-6-methylpyridin-3-yl)methyl)carbamate | 2.61 mmol, 830 mg | C(C)(C)(C)OC(NCC=1C(=NC(=CC1OC(F)F)C)OC)=O | C14H20F2N2O4
solvent | HCl | 10 mL | Cl | ClH
product | 3-(aminomethyl)-4-(difluoromethoxy)-6-methylpyridin-2(1H)-one | 430 mg, 80.8% yield | NCC=1C(NC(=CC1OC(F)F)C)=O | C8H10F2N2O2
